US06469209B1
Preparation of Methyl E-2-Bromomethyl-6-Methylphenylglyoxylate O-methyl Oxime (Formula 3)
A mixture of N-bromosuccinimide (11 g, 0.596 mol), 2,2-azobisisobutyronitrile (89 mg, 0.540 mol) and methyl E-2,6-dimethylphenylglyoxylate O-methyl oxime (12 g, 0.542 mol) in CCl4 (200 mL) was refluxed for 4 hours under 300 W lamp. The cooled reaction mixture was filtered, concentrated in vacuo to give the product (17.2 g, 100%) which was used in the next reaction without further purification:

reactant | N-bromosuccinimide | 0.596 mol, 11 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl E-2,6-dimethylphenylglyoxylate O-methyl oxime | 0.542 mol, 12 g | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1C)C | C12H15NO3
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl E-2-Bromomethyl-6-Methylphenylglyoxylate O-methyl Oxime | 17.2 g, 100% | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1C)CBr | C12H14BrNO3
